US04031226
A mixture of 3.64 parts of methyl {2,3-dihydro-1-[1-(phenylmethyl)-4-piperidinyl]-1H-benzimidazol-2-ylidene}carbamate, 24 parts of a hydrochloric acid solution and 40 parts of ethanol is stirred and refluxed overnight. The reaction mixture is evaporated and the residue is dissolved in water. This solution is alkalized with a concentrated ammonium hydroxide solution. The precipitated product is filtered off, washed with water and dissolved in trichloromethane. The solution is dried, filtered and evaporated, yielding 2.1 parts of 1-[1-(phenylmethyl)-4-piperidinyl]-1H-benzimidazol-2-amine as a residue.

reactant | methyl {2,3-dihydro-1-[1-(phenylmethyl)-4-piperidinyl]-1H-benzimidazol-2-ylidene}carbamate | C1(=CC=CC=C1)CN1CCC(CC1)N1C(NC2=C1C=CC=C2)=NC(OC)=O | C21H24N4O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-[1-(phenylmethyl)-4-piperidinyl]-1H-benzimidazol-2-amine | C1(=CC=CC=C1)CN1CCC(CC1)N1C(=NC2=C1C=CC=C2)N | C19H22N4
